US08242145B2
Step 6: {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
Hydrolysis of {3-[2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester with lithium hydroxide in MeOH and H2O provided the desired product.

reactant | {3-[2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=CC=C1)CN1C(OCC1)=O)=O | C20H21NO5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | O=C1OCCN1CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC=C1 | C18H17NO5
